US05760050
3-Benzyl-7,8-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 1 from 2,3-dimethoxyphenol and methyl 1-benzyl-4-oxo-3-piperidine-carboxylate hydrochloride. Yield 35%; mp 138°-140° C.

reactant | 2,3-dimethoxyphenol | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | methyl 1-benzyl-4-oxo-3-piperidine-carboxylate hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
product | 3-Benzyl-7,8-dimethoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 35% | C(C1=CC=CC=C1)N1CC2=C(CC1)C=1C=CC(=C(C1OC2=O)OC)OC | C21H21NO4
